US04547507
A solution of 1.44 ml of n-propyl iodide in 10 ml of ethanol was added dropwise over 20 minutes to a refluxing solution of 2.50 g of 1,2,3,4-tetrahydro-10H-(1)-benzothiopyrano[3,2-c]pyridine-10-one hydrochloride, 3.5 ml of triethylamine in 10 ml of ethanol. The mixture was refluxed for four hours after which thin layer chromatography (SiO2 :CH2Cl2 with 10% methanol) showed no starting material. The solution was evaporated to dryness and the residue was partitioned between chloroform and dilute aqueous hydrogen chloride. The aqueous layer was adjusted to a pH of 8 by addition of sodium carbonate and was extracted three times with chloroform. The organic phase was washed with water, dried over magnesium sulfate and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and eluted with methylene dichloride containing 1% of ethanol. The product was dissolved in chloroform and the solution was acidified by addition of ether saturated with hydrogen chloride. More ether was added and the mixture was filtered. The product was crystallized from ethanol and dried under reduced pressure to obtain 1.75 g (60% yield) of 1,2,3,4-tetrahydro-2-n-propyl-10H-(1)-benzothiopyrano[3,2-c]pyridin-10-one hydrochloride melting at 218° to 221° C.

reactant | n-propyl iodide | 1.44 ml | C(CC)I | C3H7I
reactant | 1,2,3,4-tetrahydro-10H-(1)-benzothiopyrano[3,2-c]pyridine-10-one hydrochloride | 2.50 g | Cl.C1NCCC2=C1C(C1=C(S2)C=CC=C1)=O
reactant | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 1,2,3,4-tetrahydro-2-n-propyl-10H-(1)-benzothiopyrano[3,2-c]pyridin-10-one hydrochloride | 1.75 g, 60% yield | Cl.C(CC)N1CC2=C(CC1)SC1=C(C2=O)C=CC=C1 | InChI=1S/C15H17NOS.ClH/c1-2-8-16-9-7-14-12(10-16)15(17)11-5-3-4-6-13(11)18-14;/h3-6H,2,7-10H2,1H3;1H
